US08372845B2
Step 1: 1-Cyano-cyclobutanecarboxylic acid tert-butyl ester
A solution of tert-butyl 2-cyanoacetate (4.0 g, 28.3 mmol), 1,3-dibromopropane (6.29 g, 31.2 mmol) in methyl ethyl ketone (100 ml) was treated with potassium carbonate (11.75 g, 85 mmol). The reaction mixture was heated to 80° C. for 17 h and then NaI (catalyst) (0.21 g, 1.42 mmol) was added. The mixture was heated at 80° C. for 6 days and then allowed to cool to RT. The mixture was filtered through Celite® (filter material) and the filtrate was concentrated in vacuo. Purification by chromatography on silica eluting with 10% EtOAc in iso-hexane afforded the title product as a colourless oil; 1H NMR (400 MHz, CDCl3) δ 2.64 (4H, m), 2.22 (2H, m), 1.53 (9H, s).

reactant | tert-butyl 2-cyanoacetate | 28.3 mmol, 4.0 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | 1,3-dibromopropane | 31.2 mmol, 6.29 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 85 mmol, 11.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaI | 1.42 mmol, 0.21 g | [Na+].[I-]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 1-Cyano-cyclobutanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CCC1)C#N | C10H15NO2
